US07186726B2
B. Synthesis of 3,3-diphenyl-1-piperazin-1-yl-propan-1-one
To a solution of 4-(3,3-diphenyl-propionyl)-piperazine-1-carboxylic acid tert-butyl ester (2.15 g, 5.45 mmol) in dry CH2Cl2 (60 ml) was added TFA (20 ml) and resulting mixture stirred at room temperature for 3 hrs. Solvent and excess TFA was then evaporated and the residue was dissolved in CH2Cl2 (150 ml) and washed with sat. NaHCO3 (2×) and dried over MgSO4. Evaporation of solvent gave 1.65 g of pure product.

reactant | 4-(3,3-diphenyl-propionyl)-piperazine-1-carboxylic acid tert-butyl ester | 5.45 mmol, 2.15 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H30N2O3
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 3,3-diphenyl-1-piperazin-1-yl-propan-1-one | 1.65 g | C1(=CC=CC=C1)C(CC(=O)N1CCNCC1)C1=CC=CC=C1 | C19H22N2O
